US04168385
Methyl α-(p-chlorophenylthio)-α-[p-(phenoxy)phenyl]acetate
Methyl α-bromo-α-[p-(phenoxy)phenyl]acetate (6.42 g) is reacted with 3.61 g of 4-chlorothiophenol in methanol as in Example 16 to afford a yellow oil which solidifies on standing. Recrystallization from 50 ml of petroleum ether affords the product as white crystals, mp 66°-67.5° C.

reactant | Methyl α-bromo-α-[p-(phenoxy)phenyl]acetate | 6.42 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H13BrO3
reactant | 4-chlorothiophenol | 3.61 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | methanol | CO | CH4O
product | Methyl α-(p-chlorophenylthio)-α-[p-(phenoxy)phenyl]acetate | ClC1=CC=C(C=C1)SC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H17ClO3S
